US04420486
21.3 g of 2-amino-4,5,6-trichlorophenol, 27.6 g of anhydrous potassium carbonate and 150 ml of toluene were placed in a 300 ml round-bottom flask and 9.9 g of phosgen was slowly added to the mixture with stirring under cooling an ice-water bath. The resulting mixture was heated at reflux temperature for one hour and the reaction solution was then cooled and transferred to a 500 ml separating funnel. 150 ml of tetrahydrofuran and 150 ml of water were added into the funnel and the organic layer was separated, dried over anhydrous sodium sulfate and filtered. The filtrate was evaporated to remove the solvent, leaving yellowish white crystals. The crystals were recrystallized from a mixed solvent of methanol and acetone to give 22.7 g of 5,6,7-trichlorobenzoxazolone as white crystals having a melting point of 253°-254° C.

reactant | 2-amino-4,5,6-trichlorophenol | 21.3 g | NC1=C(C(=C(C(=C1)Cl)Cl)Cl)O | C6H4Cl3NO
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | phosgen | 9.9 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 5,6,7-trichlorobenzoxazolone | 22.7 g | ClC=1C(=C(C2=C(NC(O2)=O)C1)Cl)Cl | C7H2Cl3NO2
